US04556674
(a) 1-Methyl-4-(2'-ethyl-phenoxymethyl)-pyrrolidin-2-one
The compound is prepared from 1-methyl-4-tosyloxymethyl-pyrrolidin-2-one described in Example 17, and potassium 2-ethyl-phenoxide, as described in Example 17. B.p. (0.3 mm Hg)=186° C.

reactant | 1-methyl-4-tosyloxymethyl-pyrrolidin-2-one | CN1C(CC(C1)COS(=O)(=O)C1=CC=C(C)C=C1)=O | C13H17NO4S
reactant | potassium 2-ethyl-phenoxide | C(C)C1=C([O-])C=CC=C1.[K+]
product | 1-Methyl-4-(2'-ethyl-phenoxymethyl)-pyrrolidin-2-one | CN1C(CC(C1)COC1=C(C=CC=C1)CC)=O | C14H19NO2
